US08633312B2
(R)-8-(2-Aminophenylamino)-1-(2,3-dihydroxypropoxy)-10,11-dihydrodibenzo[a,d]cyclo-hepten-5-one (11g)
For the synthesis of the title compound, 0.10 g (0.225 mmol) of (S)-8-(2-aminophenylamino)-1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one and 0.0537 g (0.282 mmol) of p-toluenesulfonic acid monohydrate in 6 ml of methanol and 1.5 ml of water are reacted by method N. C24H24N2O4 (Mr=404.47); yield: 40%

reactant | (S)-8-(2-aminophenylamino)-1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 0.225 mmol, 0.10 g | NC1=C(C=CC=C1)NC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3OC[C@@H]3OC(OC3)(C)C)C1 | C27H28N2O4
reactant | p-toluenesulfonic acid monohydrate | 0.282 mmol, 0.0537 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 6 ml | CO | CH4O
solvent | water | 1.5 ml | O | H2O
product | (R)-8-(2-Aminophenylamino)-1-(2,3-dihydroxypropoxy)-10,11-dihydrodibenzo[a,d]cyclo-hepten-5-one | yield: 40% | NC1=C(C=CC=C1)NC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3OC[C@@H](CO)O)C1 | C24H24N2O4
